US04878942
0.71 g of isopropylamine and 3.0 g of triethylamine were dissolved in 20 ml of dioxane. To this solution, a solution prepared by dissolving 4-(2,3-dichlorophenyl-carbamoyl)-phenoxyacetyl chloride prepared in the same manner as in Example 3 in 5 ml of dioxane, was dropwise added over a period of about 5 minutes at room temperature under stirring. After completion of the dropwise addition, the stirring was continued at room temperature for further 5 hours. After completion of the reaction, the reaction solution was treated in the same manner as in Example 3 to obtain 3.8 g of desired N-isopropyl-4-(2,3-dichlorophenyl-carbamoyl)-phenoxyacetamide.

reactant | isopropylamine | 0.71 g | C(C)(C)N | C3H9N
reactant | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
reactant | 4-(2,3-dichlorophenyl-carbamoyl)-phenoxyacetyl chloride | ClC1=C(C=CC=C1Cl)NC(=O)C1=CC=C(OCC(=O)Cl)C=C1 | C15H10Cl3NO3
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-isopropyl-4-(2,3-dichlorophenyl-carbamoyl)-phenoxyacetamide | 3.8 g | C(C)(C)NC(COC1=CC=C(C=C1)C(NC1=C(C(=CC=C1)Cl)Cl)=O)=O | C18H18Cl2N2O3
